US07582804B2
In one embodiment, the present invention provides processes for producing 2,2,4,4-tetramethylcyclobutane-1,3-diol, comprising contacting 2,2,4,4-tetramethylcyclobutane-1,3-dione, a promoted copper-based catalyst, a non-protic solvent, and hydrogen in a hydrogenation zone under conditions of temperature and pressure sufficient to form 2,2,4,4-tetramethylcyclobutane-1,3-diol. In one such embodiment, the 2,2,4,4-tetramethylcyclobutane-1,3-dione and hydrogen are continuously fed into the hydrogenation zone. In one such embodiment, the hydrogenation zone has a temperature ranging from 75° C. to 250° C. In one such embodiment, the pressure ranges from 689 kPa (100 psi) to 41,368 kPa (6000 psi). In one embodiment, the present invention provides processes for producing 2,2,4,4-tetramethylcyclobutane-1,3-diol, comprising contacting 2,2,4,4-tetramethylcyclobutane-1,3-dione, a promoted copper-based catalyst, a non-protic solvent, and hydrogen in a hydrogenation zone under conditions of temperature and pressure sufficient to form 2,2,4,4-tetramethylcyclobutane-1,3-diol, and further comprising continuously recovering an effluent comprising the 2,2,4,4-tetramethylcyclobutane-1,3-diol and the solvent from the hydrogenation zone. In one such embodiment, the process further comprises continuously recycling a portion of the effluent to the hydrogenation zone. In one such embodiment, the process further comprises continuously recovering the effluent from the hydrogenation zone and recovering at least a portion of the 2,2,4,4-tetramethylcyclobutane-1,3-diol from the effluent to form a depleted 2,2,4,4-tetramethylcyclobutane-1,3-diol stream. In one such embodiment, at least a portion of the depleted 2,2,4,4-tetramethylcyclobutane-1,3-diol stream is recycled to the hydrogenation zone. The term “depleted 2,2,4,4-tetramethylcyclobutane-1,3-diol stream” means that the depleted stream has less 2,2,4,4-tetramethylcyclobutane-1,3-diol in it than the effluent from which the depleted stream is derived. In one such embodiment, the hydrogenation zone comprises a tubular, fixed bed, or trickle bed reactor. In one such embodiment, the hydrogenation zone comprises a stirred tank, a continuous stirred tank, or a slurry reactor. In one such embodiment, the 2,2,4,4-tetramethylcyclobutane-1,3-diol has a cis/trans molar ratio of 1.3 or less. In one such embodiment, the 2,2,4,4-tetramethylcyclobutane-1,3-diol has a cis/trans molar ratio of 0.3 or more.

reactant | 2,2,4,4-tetramethylcyclobutane-1,3-dione | CC1(C(C(C1=O)(C)C)=O)C | C8H12O2
reactant | hydrogen | [H][H] | H2
product | 2,2,4,4-tetramethylcyclobutane-1,3-diol | CC1(C(C(C1O)(C)C)O)C | C8H16O2
